US06713471B1
To a solution of benzimidazol (355 mg, 3.00 mmol) in dry DMF (10 mL) was added NaH (83 mg, 3.3 mmol) at 20° C. under N2 atmosphere. The reaction mixture was stirred for 30 min, and then 1,3-dibromopropane (1.82 g, 9.00 mmol) was added and stirres for additional 15 h at 20° C. The reaction was quenched by addition of H2O, and the product was extracted with EtOAc. The organic solution was then washed with H2O and brine, dried over MgSO4, filtered and concentrated in vacuo. 1-(3-Bromo-1-propyl)benzimidazole (530 mg, 74%) was isolated by flash chromatography on a silica gel column by elution with EtOAc/Hexanes a pale yellow oil. 1H NMR (CDCl3, 300 MHz) δ2.40 (qu, 2H, J=6.6 Hz), 3.33 (t, 2H, J=6.2 Hz), 4.42 (t, 2H, J=6.6 Hz), 7.12-7.20 (m, 1H), 7.27-7.48 (m, 2H), 7.43-7.49 (m, 1H), 7.78-7.86 (m, 1H) ppm.

reactant | benzimidazol | 3.00 mmol, 355 mg | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | NaH | 3.3 mmol, 83 mg | [H-].[Na+]
reactant | 1,3-dibromopropane | 9.00 mmol, 1.82 g | BrCCCBr | C3H6Br2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(3-Bromo-1-propyl)benzimidazole | 530 mg, 74% | BrCCCN1C=NC2=C1C=CC=C2 | C10H11BrN2
